US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine (Compound 136)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 95%). 1H NMR (300 MHz, CDCl3): δ 2.29 (s, 6H), 2.50 (s, 3H), 3.18-3.29 (m, 4H), 3.73-3.80 (m, 4H), 4.12 (s, 3H), 6.58 (s, 3H), 7.31 (d, J=8.4 Hz, 1H), 7.43 (s, 1H), 7.55 (s, 1H), 7.72 (d, J=8.4 Hz, 1H).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | 95% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C23H27N5O2
